data/nitro/train.csv
rxn,smiles,ea
261,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])([Cl:25])[Cl:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Br:24])([Cl:25])[Cl:26],-15.94904371769535
919,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])(\[H:17])[Br:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([H:17])[Br:18],-9.37608905573822
243,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])([Cl:18])[Cl:19]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])([Cl:18])[Cl:19],-6.39427071173805
548,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])(\[Br:28])[c:29]1[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]1[H:39]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([Br:28])[c:29]1[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]1[H:39],-7.11229215228698
73,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[H:15])(\[C:16]([H:17])([H:18])[H:19])[Cl:20]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[H:15])([C:16]([H:17])([H:18])[H:19])[Cl:20],-8.686049517579256
13,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])([C:25]([H:26])([H:27])[H:28])[C:29]([H:30])([H:31])[H:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])([C:25]([H:26])([H:27])[H:28])[C:29]([H:30])([H:31])[H:32],-10.585293536837122
731,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[Cl:14])([c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])[c:26]1[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]1[H:36]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Cl:14])([c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])[c:26]1[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]1[H:36],-2.7621580248685165
509,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34])([Br:35])[Br:36]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34])([Br:35])[Br:36],-15.92039791009766
895,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Cl:16])(\[H:17])[Br:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Cl:16])([H:17])[Br:18],-11.67613718108204
D6,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[C:13]([H:14])=[C:15](/[H:16])[C:17]([H:18])([H:19])[C:20]([H:21])([H:22])[C:23]([H:24])([H:25])[C:26]([H:27])([H:28])[H:29])[H:30]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])(/[C:13]([H:14])=[C:15](\[H:16])[C:17]([H:18])([H:19])[C:20]([H:21])([H:22])[C:23]([H:24])([H:25])[C:26]([H:27])([H:28])[H:29])[H:30],-6.491726070610889
372,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])(\[Cl:18])[H:19]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])([Cl:18])[H:19],-5.6172508304399305
503,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([Br:17])[Br:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([Br:17])[Br:18],-5.753790617265531
